US07893056B2
To a solution of 5,5-dimethyl-1-(phenylmethyl)-2,3-pyrrolidinedione (3.9036 g, 17.97 mmol) in MeOH (90 mL) was added sodium acetate (1.81 g, 21.54 mmol) and methoxyamine hydrochloride (1.80 g, 21.55 mmol). The solution was stirred overnight and the solvent was then removed in vacuo. The residue was partitioned between DCM (200 mL), sat. aq. NaHCO3, and water. The aqueous phase was extracted with a fresh portion of DCM (50 mL), and the combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to provide crude (3E)-5,5-dimethyl-1-(phenylmethyl)-2,3-pyrrolidinedione 3-(O-methyloxime) (4.5282 g, >100% crude yield) as a yellow/orange oil. LCMS: (M+H)+: 247.1.

reactant | 5,5-dimethyl-1-(phenylmethyl)-2,3-pyrrolidinedione | 17.97 mmol, 3.9036 g | CC1(CC(C(N1CC1=CC=CC=C1)=O)=O)C | C13H15NO2
reactant | sodium acetate | 21.54 mmol, 1.81 g | C(C)(=O)[O-].[Na+]
reactant | methoxyamine hydrochloride | 21.55 mmol, 1.80 g | Cl.CON
solvent | MeOH | 90 mL | CO | CH4O
product | (3E)-5,5-dimethyl-1-(phenylmethyl)-2,3-pyrrolidinedione 3-(O-methyloxime) | 4.5282 g | CO\N=C/1\C(N(C(C1)(C)C)CC1=CC=CC=C1)=O | C14H18N2O2
